US07605123B2
8.1 Synthesis of Protected MPEG6C3 oligomer (3-{2-[2-(2-{2-[2-(2-Methoxy-ethoxy)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-ethoxy}-propionic acid tert-butyl ester)
Methyl hexaethylene glycol (1.0 g, 3.37 mmol) and tert-butyl acrylate (0.216 g, 1.69 mmol) were dissolved in dry THF (10 mL). Sodium metal 0.4 mg, 0.016 mmol) was added to the solution. After stirring for 4 h at room temperature, the reaction mixture was quenched by the addition of 1 M HCl (15 mL). The quenched reaction mixture was then extracted with CH2Cl2 (1×50 mL, 1×25 mL). The organic layer was dried (MgSO4) and concentrated. After purification by silica gel chromatography (ethyl acetate as eluent), the product was obtained as an oil (0.832 g, 58%).

reactant | Methyl hexaethylene glycol | 3.37 mmol, 1.0 g | CC(COCCOCCOCCOCCOCCO)O | C13H28O7
reactant | tert-butyl acrylate | 1.69 mmol, 0.216 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Sodium | 0.016 mmol, 0.4 mg | [Na] | Na
product | 3-{2-[2-(2-{2-[2-(2-Methoxy-ethoxy)-ethoxy]-ethoxy}-ethoxy)-ethoxy]-ethoxy}-propionic acid tert-butyl ester | 0.832 g, 58% | C(C)(C)(C)OC(CCOCCOCCOCCOCCOCCOCCOC)=O | C20H40O9
